US07737166B2
Methyl 5-amino-6-fluoro-4-methoxybiphenyl-3-carboxylate (I-231)
Methyl 3-amino-5-bromo-4-fluoro-2-methoxybenzoate (I-230) (504 mg, 1.81 mmol) was dissolved in 1,4-dioxane (10 ml), then under nitrogen atmosphere at room temperature, phenylboronic acid (456 mg, 3.62 mmol), tripotassium phosphate (770 mg, 3.62 mmol) and tetrakis(triphenylphosphine)palladium(0) (210 mg, 0.18 mmol) were added. After stirred at 90° C. for 36 hours, this was cooled to room temperature. The insoluble matter was separated by filtration with washing with ethyl acetate, the filtrate was fractionated with ethyl acetate and saturated brine. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate. The solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, hexane:ethyl acetate=3:1) to obtain the entitled compound (459 mg, 92%) as a colorless gel substance.

reactant | Methyl 3-amino-5-bromo-4-fluoro-2-methoxybenzoate | 1.81 mmol, 504 mg | NC=1C(=C(C(=O)OC)C=C(C1F)Br)OC | C9H9BrFNO3
reactant | phenylboronic acid | 3.62 mmol, 456 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | tripotassium phosphate | 3.62 mmol, 770 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.18 mmol, 210 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 5-amino-6-fluoro-4-methoxybiphenyl-3-carboxylate | 459 mg, 92% | NC=1C(=C(C=C(C1F)C1=CC=CC=C1)C(=O)OC)OC | C15H14FNO3
